* NGSPICE file created from pixel_test_structure.ext - technology: sky130A

.subckt openDVS_pixel m3_26_n2276# m2_2095_n2145# m3_26_n2150# m2_2254_n2432# m2_1383_n2432#
+ vpr m2_1392_n224# rowReadOFF PrSFBp m3_26_n2528# m2_2398_n1188# vdiff rowReadON
+ m3_26_n2402# RefrBp VddA18 readLine m5_n512_n2971# m3_26_n2654# vpd vsf PrBp pixRst
+ GndD m3_26_n2780# GndA OnBn m2_2482_n2432# DiffBn OffBn
X0 vdiff vd VddA18 VddA18 sky130_fd_pr__pfet_01v8 ad=0.45 pd=3.6 as=0.45 ps=3.6 w=1.5 l=1.5
X1 VddA18 nRst VddA18 VddA18 sky130_fd_pr__pfet_01v8 ad=0.45 pd=3.6 as=2.202 ps=18.88 w=1.5 l=1.5
X2 GndA OnBn ON GndA sky130_fd_pr__nfet_01v8 ad=0.45 pd=3.6 as=0.45 ps=3.6 w=1.5 l=1.5
X3 vd vsf sky130_fd_pr__cap_mim_m3_1 l=3.985 w=2.27
X4 vd vsf sky130_fd_pr__cap_mim_m3_1 l=6.47 w=1.505
X5 vd nRst vdiff VddA18 sky130_fd_pr__pfet_01v8_hvt ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.42
X6 GndA vpd vpr GndA sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.3
X7 GndA rowReadON a_497_n179# GndA sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
X8 a_187_n461# rowReadON readLine GndA sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X9 VddA18 PrBp vpr VddA18 sky130_fd_pr__pfet_01v8 ad=0.15 pd=1.6 as=0.15 ps=1.6 w=0.5 l=0.15
X10 nRst RefrBp VddA18 VddA18 sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=1.5
X11 a_497_n179# pixRst nRst GndA sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X12 GndA OffBn nOFF GndA sky130_fd_pr__nfet_01v8 ad=0.45 pd=3.6 as=0.45 ps=3.6 w=1.5 l=1.5
X13 vsf PrSFBp VddA18 VddA18 sky130_fd_pr__pfet_01v8_hvt ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=1.5
X14 GndD ON a_187_n461# GndA sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.105 ps=0.92 w=0.42 l=0.15
D0 GndA vpd sky130_fd_pr__model__parasitic__diode_ps2dn area=32.49
X15 a_187_n721# nOFF GndD GndA sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.126 ps=1.44 w=0.42 l=0.15
X16 GndA vpr vsf VddA18 sky130_fd_pr__pfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.25
X17 ON vdiff VddA18 VddA18 sky130_fd_pr__pfet_01v8 ad=0.45 pd=3.6 as=0.225 ps=1.8 w=1.5 l=1.5
X18 VddA18 vdiff nOFF VddA18 sky130_fd_pr__pfet_01v8 ad=0.225 pd=1.8 as=0.45 ps=3.6 w=1.5 l=1.5
X19 GndA DiffBn vdiff GndA sky130_fd_pr__nfet_01v8 ad=0.45 pd=3.6 as=0.45 ps=3.6 w=1.5 l=1.5
X20 readLine rowReadOFF a_187_n721# GndA sky130_fd_pr__nfet_01v8 ad=0.105 pd=0.92 as=0.105 ps=0.92 w=0.42 l=0.15
X21 vd vdiff sky130_fd_pr__cap_mim_m3_1 l=1 w=1
X22 vpd vpr VddA18 GndA sky130_fd_pr__nfet_01v8 ad=0.15 pd=1.6 as=0.15 ps=1.6 w=0.5 l=0.3
.ends

.subckt openDVS_pixel2x2_bot vpd[2] vpd[3] vpd[1] VddA18 rowReadOFF[1] rowReadON[1]
+ GndD rowReadON[0] RefrBp PrBp PrSFBp readLine[0] pixRst[0] pixRst[1] readLine[1]
+ DiffBn OffBn OnBn openDVS_pixel_3/vdiff vpd[0] openDVS_pixel_3/vsf rowReadOFF[0]
+ openDVS_pixel_3/vpr GndA
XopenDVS_pixel_1 OffBn DiffBn DiffBn VddA18 OnBn openDVS_pixel_1/vpr OffBn rowReadOFF[1]
+ PrSFBp PrBp GndA openDVS_pixel_1/vdiff rowReadON[1] PrSFBp RefrBp VddA18 readLine[0]
+ GndA RefrBp vpd[1] openDVS_pixel_1/vsf PrBp pixRst[0] GndD OnBn GndA OnBn GndA DiffBn
+ OffBn openDVS_pixel
XopenDVS_pixel_2 RefrBp DiffBn OnBn VddA18 OnBn openDVS_pixel_2/vpr OffBn rowReadOFF[1]
+ PrSFBp PrSFBp GndA openDVS_pixel_2/vdiff rowReadON[1] PrBp RefrBp VddA18 readLine[1]
+ GndA OffBn vpd[3] openDVS_pixel_2/vsf PrBp pixRst[1] GndD DiffBn GndA OnBn GndA
+ DiffBn OffBn openDVS_pixel
XopenDVS_pixel_3 OffBn DiffBn DiffBn GndA OnBn openDVS_pixel_3/vpr OffBn rowReadOFF[0]
+ PrSFBp PrBp GndA openDVS_pixel_3/vdiff rowReadON[0] PrSFBp RefrBp VddA18 readLine[0]
+ GndA RefrBp vpd[0] openDVS_pixel_3/vsf PrBp pixRst[0] GndD OnBn GndA OnBn VddA18
+ DiffBn OffBn openDVS_pixel
XopenDVS_pixel_0 RefrBp DiffBn OnBn GndA OnBn openDVS_pixel_0/vpr OffBn rowReadOFF[0]
+ PrSFBp PrSFBp GndA openDVS_pixel_0/vdiff rowReadON[0] PrBp RefrBp VddA18 readLine[1]
+ GndA OffBn vpd[2] openDVS_pixel_0/vsf PrBp pixRst[1] GndD DiffBn GndA OnBn VddA18
+ DiffBn OffBn openDVS_pixel
.ends

.subckt scs130hd_inv_1 vgnd vpwr vpb vnb A Y
X0 vpwr A Y vpb sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.26 ps=2.52 w=1 l=0.15
X1 vgnd A Y vnb sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.169 ps=1.82 w=0.65 l=0.15
.ends

.subckt infiniamp_xl VDD GND VOUT VIN VBIAS
X0 GND GND GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=14.64 ps=110.64 w=2 l=0.4
X1 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X2 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X3 AUX_SOURCE N_VIN DIODE_LD AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
X4 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X5 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X6 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X7 AUX_SOURCE N_VIN DIODE_LD AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
X8 VDD VBIAS AUX_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.265 ps=2.53 w=1 l=0.4
X9 AUX_SOURCE VOUT MAIN_BIAS AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
X10 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X11 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X12 GND MAIN_BIAS VOUT GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X13 MAIN_SOURCE VIN N_VIN MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
X14 MAIN_SOURCE VOUT VOUT MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
X15 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X16 GND MAIN_BIAS VOUT GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X17 MAIN_SOURCE VIN N_VIN MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
X18 AUX_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.14 ps=1.28 w=1 l=0.4
X19 GND MAIN_BIAS VOUT GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X20 GND DIODE_LD DIODE_LD GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X21 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.265 ps=2.53 w=1 l=0.4
X22 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X23 GND GND GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0 ps=0 w=2 l=0.4
X24 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X25 GND MAIN_BIAS VOUT GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X26 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X27 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X28 GND DIODE_LD DIODE_LD GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X29 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X30 GND MAIN_BIAS MAIN_BIAS GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X31 VOUT MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X32 GND MAIN_BIAS N_VIN GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X33 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.14 ps=1.28 w=1 l=0.4
X34 N_VIN MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X35 MAIN_SOURCE VOUT VOUT MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
X36 AUX_SOURCE VOUT MAIN_BIAS AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X37 GND MAIN_BIAS N_VIN GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X38 VOUT MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X39 GND MAIN_BIAS N_VIN GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X40 N_VIN MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X41 AUX_SOURCE N_VIN DIODE_LD AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X42 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X43 AUX_SOURCE N_VIN DIODE_LD AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X44 AUX_SOURCE VOUT MAIN_BIAS AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X45 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X46 VOUT MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X47 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X48 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.265 ps=2.53 w=1 l=0.4
X49 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X50 N_VIN MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X51 GND MAIN_BIAS N_VIN GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X52 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X53 MAIN_SOURCE VIN N_VIN MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X54 VOUT MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X55 N_VIN MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X56 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.14 ps=1.28 w=1 l=0.4
X57 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X58 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.265 ps=2.53 w=1 l=0.4
X59 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X60 VDD VBIAS AUX_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.265 ps=2.53 w=1 l=0.4
X61 VOUT VOUT MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X62 VDD VBIAS MAIN_SOURCE VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X63 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.14 pd=1.28 as=0.14 ps=1.28 w=1 l=0.4
X64 MAIN_SOURCE VIN N_VIN MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X65 MAIN_SOURCE VOUT VOUT MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X66 MAIN_SOURCE VOUT VOUT MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.02 ps=6.34 w=6 l=0.4
X67 N_VIN VIN MAIN_SOURCE MAIN_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X68 MAIN_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.14 ps=1.28 w=1 l=0.4
X69 AUX_SOURCE VBIAS VDD VDD sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.14 ps=1.28 w=1 l=0.4
X70 MAIN_BIAS MAIN_BIAS GND GND sky130_fd_pr__nfet_01v8 ad=0.61 pd=4.61 as=0.61 ps=4.61 w=2 l=0.4
X71 MAIN_BIAS VOUT AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X72 DIODE_LD N_VIN AUX_SOURCE AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.02 pd=6.34 as=1.77 ps=12.59 w=6 l=0.4
X73 AUX_SOURCE VOUT MAIN_BIAS AUX_SOURCE sky130_fd_pr__pfet_01v8_lvt ad=1.77 pd=12.59 as=1.02 ps=6.34 w=6 l=0.4
.ends

.subckt scs130hd_inv_4 vpwr vgnd vpb vnb A Y
X0 Y A vgnd vnb sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.169 ps=1.82 w=0.65 l=0.15
X1 vgnd A Y vnb sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X2 Y A vgnd vnb sky130_fd_pr__nfet_01v8 ad=0.08775 pd=0.92 as=0.08775 ps=0.92 w=0.65 l=0.15
X3 vgnd A Y vnb sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.08775 ps=0.92 w=0.65 l=0.15
X4 Y A vpwr vpb sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.26 ps=2.52 w=1 l=0.15
X5 vpwr A Y vpb sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X6 Y A vpwr vpb sky130_fd_pr__pfet_01v8_hvt ad=0.135 pd=1.27 as=0.135 ps=1.27 w=1 l=0.15
X7 vpwr A Y vpb sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.135 ps=1.27 w=1 l=0.15
.ends

.subckt pixel_test_structure dac_config_0 dac_config_1 dac_config_4 dac_config_3 dac_config_5
+ dac_config_2 readOut[0] readOut[1] vpd_buff dac_config_7 vpr_buff vdiff_buff vsf_buf
+ vssd2 rowReadON[1] rowReadOFF[1] rowReadOFF[0] rowReadON[0] vdda2 vssa2 pixRst[0]
+ pixRst[1]
XopenDVS_pixel2x2_bot_0 openDVS_pixel2x2_bot_0/vpd[2] openDVS_pixel2x2_bot_0/vpd[3]
+ openDVS_pixel2x2_bot_0/vpd[1] vdda2 rowReadOFF[1] rowReadON[1] vssd2 rowReadON[0]
+ dac_config_5 dac_config_3 dac_config_4 readLine[0] pixRst[0] pixRst[1] readLine[1]
+ dac_config_0 dac_config_1 dac_config_2 vdiff vpd vsf rowReadOFF[0] vpr vssa2 openDVS_pixel2x2_bot
Xscs130hd_inv_1_0 vssd2 vdda2 vdda2 vssa2 readLine[0] scs130hd_inv_4_0/A scs130hd_inv_1
Xscs130hd_inv_1_1 vssd2 vdda2 vdda2 vssa2 readLine[1] scs130hd_inv_4_1/A scs130hd_inv_1
Xinfiniamp_xl_0 vdda2 vssa2 vsf_buf vsf dac_config_7 infiniamp_xl
Xinfiniamp_xl_1 vdda2 vssa2 vdiff_buff vdiff dac_config_7 infiniamp_xl
Xinfiniamp_xl_2 vdda2 vssa2 vpd_buff vpd dac_config_7 infiniamp_xl
Xinfiniamp_xl_3 vdda2 vssa2 vpr_buff vpr dac_config_7 infiniamp_xl
Xscs130hd_inv_4_0 vdda2 vssd2 vdda2 vssa2 scs130hd_inv_4_0/A readOut[0] scs130hd_inv_4
Xscs130hd_inv_4_1 vdda2 vssd2 vdda2 vssa2 scs130hd_inv_4_1/A readOut[1] scs130hd_inv_4
X0 readLine[0] readLine[0] vdda2 vdda2 sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.265 ps=2.53 w=1 l=1
X1 vdda2 readLine[1] readLine[1] vdda2 sky130_fd_pr__pfet_01v8 ad=0.265 pd=2.53 as=0.265 ps=2.53 w=1 l=1
.ends

